US07820670B2
Step A: 4-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)butan-1-ol
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 4-aminobutan-1-ol according to general procedure 1 providing the intermediate (150 mg, 82%) as a yellow solid: Rf=0.45 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.53 (d, J=9.7 Hz, 1H), 7.38 (s, 1H), 6.68 (d, J=9.7 Hz, 1H), 3.62 (t, J=6.6 Hz, 2H), 3.40 (t, J=6.9 Hz, 2H), 1.77-1.72 (m, 2H), 1.69-1.64 (m, 2H).

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 4-aminobutan-1-ol | NCCCCO | C4H11NO
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 4-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)butan-1-ol | BrC1=CN=C2N1N=C(C=C2)NCCCCO | C10H13BrN4O
